data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][CH:21]1CCC([C:22]1=[O:23])C(C)C.CC(C)C1CCC2C1(CC(=O)C3C2CCC4=CC=CC=C34)[O-:10]>>[H:20][O:10]C12CC(=O)C3C(C1CCC2C(C)C)CCC4=CC=CC=C34.CC(C)C1CC[CH:21]=[C:22]1[O-:23] 10=20;22,23=23;20,21=21,22
CC[OH:10].C[CH+:20]C1=CC=CC=C1>>CC[OH+:10][CH:20](C)C1=CC=CC=C1 10=20,
[H:20][NH+:21](CC)C(CC)([N+]1=CN(C=C1)C)[O-].CC[NH2:10].C1=CC(=CC=C1[N+](=O)[O-])[O-]>>[H:20][NH2+:10]CC.CCC([NH:21]CC)([N+]1=CN(C=C1)C)[O-].C1=CC(=CC=C1[N+](=O)[O-])[O-] 10=20;20,21=21
[H:20][CH2:21][P+](C)(C)C.[H:10][K:11]>>C[P+](C)(C)[CH2-:21].[H:10][H:20].[K+:11] 10,11=10,20;20,21=21
[B:20]1(OC(C(O1)C(=O)OC(C)C)C(=O)OC(C)C)CC=C=C.CC1CCC2(C(C1(C)CC=[O:10])CCC=C2COCC3=CC=C(C=C3)OC)C>>[B-:20]1(OC(C(O1)C(=O)OC(C)C)C(=O)OC(C)C)(CC=C=C)[O+:10]=CCC2(C(CCC3(C2CCC=C3COCC4=CC=C(C=C4)OC)C)C)C 10=20,
CC#CCC[CH:10]=[C:11](C)CCC(=C(C)C)[C+:20](C)C.C(=O)[O-].O>>CC#CCC[CH:10]1[C+:11](CCC(=C(C)C)[C:20]1(C)C)C.C(=O)[O-].O 10,11=10,20
CC(=O)[NH:21][Br:20].COC1=C(C=CC=C1C23CCCC(C2)[N:12]([CH:11]=[CH:10]3)CC4=CC=CC=C4)O>>CC(=O)[NH-:21].COC1=C(C=CC=C1C23CCCC(C2)[N+:12](=[CH:11][CH:10]3[Br:20])CC4=CC=CC=C4)O 10,11=10,20;20,21=21;12=11
C1C[OH+:21][C:20](OC1)(O)[OH:10]>>C(C[OH:21])CO[C:20](=[OH+:10])O 10=20;20,21=21
C[CH+:20]C.COC1=C[CH:11]=[CH:10]O1>>C[CH:20](C)[CH:10]1[CH+:11]C=C(O1)OC 10,11=10,20
CCC(C1CCCCC1)O[Al-:10]([OH+:11]C(C)C)(OC(C)C)OC(C)C.CC(C)[O-]>>CCC(C1CCCCC1)O[Al:10](OC(C)C)OC(C)C.CC(C)[OH:11].CC(C)[O-] 10,11=11
[H:20][CH:21]1C=C([NH+:23]=[C:22]1C2=CC(=CC(=C2)C(=O)CCC(=O)C)C3=CC=C(N3)C)C.CC(=O)[O-:10].C(=O)[O-].O>>[H:20][O:10]C(=O)C.CC1=C[CH:21]=[C:22]([NH:23]1)C2=CC(=CC(=C2)C(=O)CCC(=O)C)C3=CC=C(N3)C.C(=O)[O-].O 10=20;22,23=23;20,21=21,22
[H:20][N+:21]1=C2CCCCCN2CCC1.CC1(CC(C(=O)C2C1O2)(C)C[O-:10])C>>[H:20][O:10]CC1(CC(C2C(C1=O)O2)(C)C)C.C1CCC2=[N:21]CCCN2CC1 10=20;20,21=21
B([O+:21]([CH3:20])C1=C(C(=CC=C1)CCC)C)(Br)Br.[Br-:10]>>B([O:21]C1=C(C(=CC=C1)CCC)C)(Br)Br.[CH3:20][Br:10] 10=20;20,21=21
[H:20][O:21]C(CC)CCCCC.[H:10][Na:11]>>CCCCCC(CC)[O-:21].[H:10][H:20].[Na+:11] 10,11=10,20;20,21=21
CC(C(=O)NCC(=O)O)[NH2+:21][C:20](=O)[O-:10].C[C+](C)C.C(=O)(C(F)(F)F)[O-].[Cl-]>>CC(C(=O)NCC(=O)O)[NH2:21].[C:20](=O)=[O:10].C[C+](C)C.C(=O)(C(F)(F)F)[O-].[Cl-] 10=20;20,21=21
[H:20][C:21]1(C=CC=C[C+:22]1O)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=C[C:22](=[C:21](C=C1)S(=O)(=O)O)O 10=20;20,21=21,22
CC(C)C1CCC2[C:20]1([CH-:10]C(=O)C3C2CCC4=CC=CC=C34)[OH:21]>>CC(C)C1CCC2[C:20]1=[CH:10]C(=O)C3C2CCC4=CC=CC=C34.[OH-:21] 10=20;20,21=21
[Li+:20].[Li]OC1C2=C(C=CC=C2)C(C1(C)C)[C-:10]3SCCCS3.CCCCBr>>[Li:20][C:10]1(SCCCS1)C2C3=C(C=CC=C3)C(C2(C)C)O[Li].CCCCBr 10=20,
C[OH:10].COC1=C(C=CC(=C1)[C:20](=[OH+:21])O)[NH3+].OS(=O)(=O)[O-]>>C[OH+:10][C:20](C1=CC(=C(C=C1)[NH3+])OC)(O)[OH:21].OS(=O)(=O)[O-] 10=20;20,21=21
[H:20][O:21]C(=O)C(F)(F)F.C1CC([N:10](C1)C(C2=CC=C(C=C2)[N+](=O)[O-])O)C3=NN=NN3.CCCCC(=O)C1=C(C=CC(=C1)Br)O>>[H:20][N+:10]1(CCCC1C2=NN=NN2)C(C3=CC=C(C=C3)[N+](=O)[O-])O.C(=O)(C(F)(F)F)[O-:21].CCCCC(=O)C1=C(C=CC(=C1)Br)O 10=20;20,21=21
CCO[S:10](C)(C)[O:11]S(=O)(=O)[O-]>>CCO[S+:10](C)C.[O-:11]S(=O)(=O)[O-] 10,11=11
CC[C:20](C)([C:10](=[C:11](C)[O-:12])C)[OH:21]>>CC[C:20](=[C:10](C)[C:11](=[O:12])C)C.[OH-:21] 10,11=10,20;20,21=21;12=11
[H:20][N+:21](=C1CCC2(C3CC4=C5C2(C1OC5=C(C=C4)OC)CCN3)O)N.[OH-:10].C(COCCO)O.O>>[H:20][OH:10].COC1=C2C3=C(CC4C5(C3(CCN4)C(O2)C(=[N:21]N)CC5)O)C=C1.C(COCCO)O.O 10=20;20,21=21
[H:20][S:21]CCCBr.[OH-:10]>>[H:20][OH:10].C(C[S-:21])CBr 10=20;20,21=21
C[CH:20]=[O:21].CP(=O)(C)[CH2-:10]>>C[CH:20]([CH2:10]P(=O)(C)C)[O-:21] 10=20;20,21=21
C[CH+]C[Si:20](C)(C)C.C[O:10]C>>C[CH+]C[Si-:20](C)(C)(C)[O+:10](C)C 10=20,
C[NH+:21](C)[CH:20](OC)[O:10]C.[Cl-]>>C[NH:21]C.CO[CH:20]=[O+:10]C.[Cl-] 10=20;20,21=21
CCC(CC)(C(C)C)[NH2:10].[CH3:20][I:21]>>CCC(CC)(C(C)C)[NH2+:10][CH3:20].[I-:21] 10=20;20,21=21
CCCC1CC(C(C1C(=C[O-:10])C)[CH:20]=[N+:21](C)C2=CC=CC=C2)C.C[NH2+]C1=CC=CC=C1.O>>CCCC1CC(C2C1C(=C[O:10][CH:20]2[N:21](C)C3=CC=CC=C3)C)C.C[NH2+]C1=CC=CC=C1.O 10=20;20,21=21
C1=CC=C(C=C1)C(=O)O[C:13]2=[C:12]([CH:11]=[CH:10]C=C2)Br.[Br:20][Br:21]>>C1=CC=C(C=C1)C(=O)O[C+:13]2C=C[CH:10]([CH:11]=[C:12]2Br)[Br:20].[Br-:21] 10,11=10,20;20,21=21;12,13=11,12
[H:20][O+:21]=CCC.[OH2:10]>>[H:20][OH2+:10].CCC=[O:21] 10=20;20,21=21
CC1=CC=C(C=C1)S(=O)(=O)OC(C)CC[OH:10].C(F)(F)(F)S(=O)(=O)O[S:20](=O)(=[O:21])C(F)(F)F>>CC1=CC=C(C=C1)S(=O)(=O)OC(C)CC[OH+:10][S:20](=O)(C(F)(F)F)([O-:21])OS(=O)(=O)C(F)(F)F 10=20;20,21=21
CC1=C[CH:11]=[CH:10]O1.O[S+:20](=O)=O>>CC1=C[CH+:11][CH:10](O1)[S:20](=O)(=O)O 10,11=10,20
C1C(CC1=O)[C:20]([OH2+:21])([OH:10])OCC2=CC=CC=C2.CC1=CC=CC=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=C(C=C1)CO>>C1C(CC1=O)[C:20](=[OH+:10])OCC2=CC=CC=C2.[OH2:21].CC1=CC=CC=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=C(C=C1)CO 10=20;20,21=21
CCO[C:20](=[O+:21]CC)C.CC12COC(=O)C1(C(C=C2C[OH:10])O[Si](C)(C)C(C)(C)C)C.CCO.CC(C)(C)C(=O)[O-]>>CCO[C:20](C)([OH+:10]CC1=CC(C2(C1(COC2=O)C)C)O[Si](C)(C)C(C)(C)C)[O:21]CC.CCO.CC(C)(C)C(=O)[O-] 10=20;20,21=21
